US05506233
Benzyl 3,4,6-trideoxy-2-O-methyl-3-(dimethylamino)-D-xylohexopyranoside
Benzyl 3,4,6-trideoxy-3-(dimethylamino)-D-xylohexopyranoside (Korte, F., A. Bilow and R. Heinz, Tetrahedron, 1962, 18, 657,666, 10.01 g, 38.06 mmoles) was dissolved in tetrahydrofuran (300 mL) with stirring at room temperature under an argon atmosphere. The solution was treated with small portions of sodium hydride (60% oil dispersion, 1.83 g, 45.68 mmoles). After one hour, dimethylsulfate (5.28 g, 41.87 mmoles) was added and the reaction mixture was stirred for two hours. The reaction mixture was quenched by the careful addition of water and the solution was evaporated in vacuo leaving an oily residue which was resuspended in ethyl acetate and water. The organic layer was separated, dried (MgSO4) and filtered to afford 9.74 g (93%) of the title compound as a slightly yellow oil which solidified on standing.

reactant | Benzyl 3,4,6-trideoxy-3-(dimethylamino)-D-xylohexopyranoside | CN([C@@H]1[C@H](C(OCC2=CC=CC=C2)O[C@@H](C1)C)O)C | C15H23NO3
reactant | sodium hydride | 45.68 mmoles, 1.83 g | [H-].[Na+]
reactant | dimethylsulfate | 41.87 mmoles, 5.28 g | COS(=O)(=O)OC | C2H6O4S
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Benzyl 3,4,6-trideoxy-2-O-methyl-3-(dimethylamino)-D-xylohexopyranoside | 9.74 g, 93% | CO[C@H]1C(OCC2=CC=CC=C2)O[C@@H](C[C@@H]1N(C)C)C | C16H25NO3
